US04032544
(a) 2-Bromo-6,7-dimethyl naphtho-1,4-quinone
A solution of 6,7-dimethyl naphtho-1,4-quinone (20.0 g.; 0.107 mole) in glacial acetic acid (250 ml) was stirred during the dropwise addition of bromine (5.6 ml; 17.2 g; 0.107 mole) in acetic acid (10 ml.) at 15° C. and allowed to stir at this temperature for a further 2 hours. Anhydrous sodium acetate (20 g) was added and the mixture stirred at 100° C. for 11/2 hours after an initial half hour period at room temperature; cooled, poured into water (2.5 l) and the yellow bromo product filtered off. It had m.p. (ethanol, chloroform) 156°-159° C. (Found; C, 53.47; H, 3.39; Br, 30.23; C12H9BrO2 requires; C, 54.36; H, 3.42; Br, 30.14%):

reactant | 6,7-dimethyl naphtho-1,4-quinone | 0.107 mole, 20.0 g | CC=1C=C2C(C=CC(=O)C2=CC1C)=O | C12H10O2
reactant | bromine | 0.107 mole, 5.6 ml, 17.2 g | BrBr | Br2
reactant | sodium acetate | 20 g | C(C)(=O)[O-].[Na+]
reactant | water | 2.5 l | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-6,7-dimethyl naphtho-1,4-quinone | BrC=1C(=O)C2=CC(=C(C=C2C(C1)=O)C)C | C12H9BrO2
